US08623877B2
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2′-(toluene-4-sulfonyl)-3,4,1′,2′,3′,4′-hexahydro-1H-[2,6′]biisoquinolinyl
The title compound was synthesized in substantially the same way as Example 1 by condensation of 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline with 6-bromo-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline.

reactant | 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | 6-bromo-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline | BrC=1C=C2CCN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C16H16BrNO2S
product | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2′-(toluene-4-sulfonyl)-3,4,1′,2′,3′,4′-hexahydro-1H-[2,6′]biisoquinolinyl | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCN(CC2=CC1)C=1C=C2CCN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C34H42N4O2S
